US04459152
4-Cyclopropylcarbonyloxy-3-nitrophenylmethylsulfone
32.6 g of 4-hydroxy-3-nitrophenylmethylsulfone are suspended in 250 ml of tetrahydrofurane and to this suspension are added 21 ml of triethylamine. With stirring, 15.7 g of cyclopropanecarboxylic acid chloride are added dropwise to the resultant solution. After the weakly exothermic reaction has subsided, stirring is continued for 3 hours at room temperature and the filtrate is concentrated, affording 42 g of a viscous oil which is digested with petroleum ether. Yield: 40.5 g of pale yellow crystalline product with a melting point of 114°-116° C.

reactant | 4-hydroxy-3-nitrophenylmethylsulfone | 32.6 g | OC1=C(C=C(C=C1)CS(=O)(=O)CC1=CC(=C(C=C1)O)[N+](=O)[O-])[N+](=O)[O-] | C14H12N2O8S
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarboxylic acid chloride | 15.7 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | tetrahydrofurane | 250 ml | O1CCCC1 | C4H8O
product | 4-Cyclopropylcarbonyloxy-3-nitrophenylmethylsulfone | 42 g | C1(CC1)C(=O)OC1=C(C=C(C=C1)CS(=O)(=O)CC1=CC(=C(C=C1)OC(=O)C1CC1)[N+](=O)[O-])[N+](=O)[O-] | C22H20N2O10S
